US07977364B2
NBS (12.7 g, 71.5 mmoles) and benzyl peroxide (1.6 g, 6.5 mmoles) were added to a mixture of 3-methyl-6-[(tert-butyl(dimethyl)silyl)oxy]-1,2-benzisoxazole (17.1 g, 65 mmoles) and CCl4 (200 ml). The mixture was refluxed overnight and the precipitate was filtered, washed with CCl4 and purified by flash chromatography (AcOEt/Toluene 1/9 with 0.1% TEA) to give 3-(bromomethyl)-6-[(tert-butyl(dimethyl)silyl)oxy]-1,2-benzisoxazole (15.1 g, 68%).

reactant | NBS | 71.5 mmoles, 12.7 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzyl peroxide | 6.5 mmoles, 1.6 g | C(C1=CC=CC=C1)OOCC1=CC=CC=C1 | C14H14O2
reactant | 3-methyl-6-[(tert-butyl(dimethyl)silyl)oxy]-1,2-benzisoxazole | 65 mmoles, 17.1 g | CC1=NOC2=C1C=CC(=C2)O[Si](C)(C)C(C)(C)C | C14H21NO2Si
solvent | CCl4 | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(bromomethyl)-6-[(tert-butyl(dimethyl)silyl)oxy]-1,2-benzisoxazole | 15.1 g, 68% | BrCC1=NOC2=C1C=CC(=C2)O[Si](C)(C)C(C)(C)C | C14H20BrNO2Si
